US04992550
A mixture of 2,4-dimethoxy-6-methylquinazoline (8.2 g), N-bromosuccinimide (7.9 g), benzoyl peroxide (0.19 g) and carbon tetrachloride (200 ml) was heated to reflux for 2 hours. The warm solution was filtered and the filtrate was evaporated to give 6-bromomethyl-2,4-dimethoxyquinazoline (11.7 g), m.p. 138°-143° C.

reactant | 2,4-dimethoxy-6-methylquinazoline | 8.2 g | COC1=NC2=CC=C(C=C2C(=N1)OC)C | C11H12N2O2
reactant | N-bromosuccinimide | 7.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
catalyst | benzoyl peroxide | 0.19 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 6-bromomethyl-2,4-dimethoxyquinazoline | 11.7 g | BrCC=1C=C2C(=NC(=NC2=CC1)OC)OC | C11H11BrN2O2
